US09255096B1
3-(8,9-dimethoxy-1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(4-isopropylphenyl)benzamide
To a mixture of 3-(8,9-dimethoxy-1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid hydrochloride (0.38 mmol, 152 mg), N, N-diisopropylethylamine (1.14 mmol, 0.199 mL), and catalytic DMAP in 2.0 mL DMF at rt was added propylphosphonic anhydride solution (50 wt % in EtOAc, 0.494 mmol, 0.293 mL). After 8 min at rt, 4-isopropylaniline (0.57 mmol, 0.081 mL) was added and the reactions continued for 1.8 hours. Then an additional 0.050 mL propylphosphonic anhydride solution and 0.020 mL 4-isopropylaniline was added, the mixture briefly heated to 80° C. 3 times, and then continued at rt for 2 hours. The reaction was quenched into dilute aqueous Na2CO3 solution, extracted into EtOAc, the EtOAc layer washed with H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting solid was chromatographed eluting with CHCl3/EtOAc/MeOH and then triturated with EtOAc to give the title compound as a light yellow solid (23 mg, 13%).

reactant | 3-(8,9-dimethoxy-1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)benzoic acid hydrochloride | 0.38 mmol, 152 mg | Cl.COC=1C(=CC2=C(N=CC=3CN(CCC23)C=2C=C(C(=O)O)C=CC2)C1)OC
reactant | N, N-diisopropylethylamine | 1.14 mmol, 0.199 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | propylphosphonic anhydride | 0.494 mmol, 0.293 mL | CCCP(=O)=O | C3H7O2P
reactant | 4-isopropylaniline | 0.57 mmol, 0.081 mL | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | propylphosphonic anhydride | 0.050 mL | CCCP(=O)=O | C3H7O2P
reactant | 4-isopropylaniline | 0.020 mL | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-(8,9-dimethoxy-1,4-dihydrobenzo[c]-2,7-naphthyridin-3(2H)-yl)-N-(4-isopropylphenyl)benzamide | 23 mg, 13% | COC=1C(=CC2=C(N=CC=3CN(CCC23)C=2C=C(C(=O)NC3=CC=C(C=C3)C(C)C)C=CC2)C1)OC | C30H31N3O3
